US07935725B2
Step D: (S,S)-5-[4-(Benzothiazol-2-yloxy)-benzyl]-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid amide.
To a solution of (S,S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid amide hydrochloride (35.6 g, 200 mmol) in THF (250 mL) was added Et3N (62 mL, 440 mmol), and the resulting suspension was stirred at rt for 5 min. A solution of 4-(benzothiazol-2-yloxy)-benzaldehyde (38 g, 149 mmol) in THF (320 mL) was added. The reaction mixture was allowed to stir at rt for 2 h. Sodium triacetoxyborohydride (37.9 g, 180 mmol) was added in 3 equal portions over 10 min at 0° C. The mixture was then stirred at rt overnight. The reaction was diluted with CH2Cl2 (500 mL) and 1 N NaOH (300 mL). The layers were allowed to separate and the aqueous layer was further extracted with CH2Cl2 (300 mL). The combined organic layers were washed with satd. aq. NaCl (200 mL), dried (MgSO4) and concentrated. The crude material was dissolved in refluxing EtOAc (400 mL) for 5 h. Upon cooling the solution to rt, the product precipitated as a white solid. This solid was purified by silica gel flash chromatography (4:1 CH2Cl2/CH3OH) to afford the desired product (25 g, 44%) as a white powdery solid. The EtOAc solution recovered after filtration of the white solid was concentrated and purified by silica gel flash chromatography (4:1 CH2Cl2/CH3OH) followed by recrystallization to provide additional desired product as a white solid (8 g, 14%). MS (ESI): mass calcd. for C20H20N4O2S, 380.47; m/z found, 381.1 [M+H]+. 1H NMR (500 MHz, CDCl3): 7.75 (d, J=8.1 Hz, 1H), 7.69 (dd, J=8.0, 0.7 Hz, 1H), 7.44 (d, J=8.6 Hz, 2H), 7.42-7.39 (m, 1H), 7.35-7.26 (m, 3H), 4.49-4.32 (m, 3H), 3.79 (s, 2H), 3.62-3.53 (m, 2H), 3.25 (dd, J=8.8, 2.2 Hz, 1H), 2.93 (d, J=9.7 Hz, 1H), 2.77 (d, J=9.7 Hz, 1H), 1.95 (d, J=9.7 Hz, 1H), 1.77 (d, J=9.7 Hz, 1H).

reactant | (S,S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid amide hydrochloride | 200 mmol, 35.6 g | Cl.[C@@H]12N(C[C@@H](NC1)C2)C(=O)N
reactant | Et3N | 440 mmol, 62 mL | CCN(CC)CC | C6H15N
reactant | 4-(benzothiazol-2-yloxy)-benzaldehyde | 149 mmol, 38 g | S1C(=NC2=C1C=CC=C2)OC2=CC=C(C=O)C=C2 | C14H9NO2S
reactant | Sodium triacetoxyborohydride | 180 mmol, 37.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 320 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1 N, 300 mL | [OH-].[Na+]
product | (S,S)-5-[4-(Benzothiazol-2-yloxy)-benzyl]-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid amide | 25 g, 44% | S1C(=NC2=C1C=CC=C2)OC2=CC=C(CN1[C@@H]3CN([C@H](C1)C3)C(=O)N)C=C2 | C20H20N4O2S
